### PR TITLE
Human-readable proof and formalization that equation 1689 is trivial

### PR DESCRIPTION
**Pull request by blefloch**
This was previously only a computer-assisted unreadable proof by Kisielewicz, [see context on Zulip](https://leanprover.zulipchat.com/#narrow/channel/458659-Equational/topic/Alternative.20proofs.20of.20E1689.E2.8A.A2E2/with/517310015).

I have zero Lean experience so please be wary of non-idiomatic uses.  In particular I've put several lemmas with short names in a namespace Eq1689, which I then use to prove the theorem in one line outside the namespace.  In that namespace I also define functions `pow3`, `pow5`, `f`, `g`.  If I understand correctly this does not leak out of the namespace, but someone with more experience should confirm when reviewing the pull request.

### CODE REVIEW

**Comment by blefloch** [comment]
awaiting-review

**Comment by pitmonticone** [comment]
Thanks! I'll review it later today or tomorrow.

File: equational_theories/Subgraph.lean [hunk 1]
```diff
@@ -357,41 +307,64 @@ theorem Equation1571_implies_Equation4656 {G : Type} [Magma G] (h : Equation1571
...
+/- Proof that 1689 implies 2.  First proven by Kisielewicz in 1997 via computer assistance. -/
+namespace Eq1689
+def pow3 {G: Type*} [Magma G] (a : G) : G := (a ◇ a) ◇ a
+def pow5 {G: Type*} [Magma G] (a : G) : G := ((pow3 a) ◇ a) ◇ a
+def f {G: Type*} [Magma G] (a b : G) : G := (a ◇ b) ◇ b
+def g {G: Type*} [Magma G] (a b : G) : G := a ◇ ((a ◇ b) ◇ b)
+
+-- Rewrite equation in terms of f
+lemma eq_f {G: Type*} [Magma G] (h: Equation1689 G) :
+    ∀ a b c : G, a = (b ◇ a) ◇ (f a c) := by exact h
```
Comment (teorth) [inline equational_theories/Subgraph.lean:320]: "by exact h" can be golfed to "h"

File: equational_theories/Subgraph.lean [hunk 2]
```diff
@@ -357,41 +307,64 @@ theorem Equation1571_implies_Equation4656 {G : Type} [Magma G] (h : Equation1571
...
+    rw [← fproj a c, ← eq_f h a b c]
+  have eq6 (a b : G) : a = b ◇ b := by
+    rw [eq30 a (a ◇ b) b, ← eq30 b a a]
+  intro a b ; rw[eq6 a b, ← eq6 b b]
+
+lemma lem_1 {G: Type*} [Magma G] (h: Equation1689 G) :
+    ∀ a b c : G, a ◇ (f (f a b) c) = f a b := by
+  intro a b c
+  nth_rewrite 1 [eq_f h a a b]
+  exact Eq.symm (eq_f h (f a b) (a ◇ a) c)
```
Comment (teorth) [inline equational_theories/Subgraph.lean:339]: Eq.symm (...) can be golfed to (...).symm

File: equational_theories/Subgraph.lean [hunk 3]
```diff
@@ -357,41 +307,64 @@ theorem Equation1571_implies_Equation4656 {G : Type} [Magma G] (h : Equation1571
...
+  simp [g]
+  nth_rewrite 1 [h b (a ◇ b) c]
+  exact (lem_1 h a b (f b c))
+
+lemma lem_fixf {G: Type*} [Magma G] (h: Equation1689 G) :
+    ∀ a : G, ∃ b : G, f a b = a := by
+  intro a
+  have h1 : pow3 a = a ◇ pow5 a := by
+    exact Eq.symm (lem_1 h a a a)
+  have h2 : f a (pow5 a) = g (pow3 a) a := by simp [f,g] ; rw[← h1] ; rfl
```
Comment (teorth) [inline equational_theories/Subgraph.lean:353]: can combine the simp and rw into a simp_rw [f,g,← h1]

File: equational_theories/Subgraph.lean [hunk 4]
```diff
@@ -357,41 +307,64 @@ theorem Equation1571_implies_Equation4656 {G : Type} [Magma G] (h : Equation1571
...
+  have h3 : f a (pow3 a) = g a (pow5 a) := by
+    rw [← lem_2 h a (pow3 a) a, ← h2] ; rfl
+  have h4 : pow3 a = a ◇ (g a (pow5 a)) := by
+    rw [lem_2 h] ; rfl
+  use (g a (pow5 a))
+  simp [f]
+  rw [← h4, ← h3]
```
Comment (teorth) [inline equational_theories/Subgraph.lean:360]: can combine simp and rw to simp_rw [f, ← h4, ← h3]

File: equational_theories/Subgraph.lean [hunk 5]
```diff
@@ -357,41 +307,64 @@ theorem Equation1571_implies_Equation4656 {G : Type} [Magma G] (h : Equation1571
...
+lemma lem_1 {G: Type*} [Magma G] (h: Equation1689 G) :
+    ∀ a b c : G, a ◇ (f (f a b) c) = f a b := by
+  intro a b c
+  nth_rewrite 1 [eq_f h a a b]
+  exact Eq.symm (eq_f h (f a b) (a ◇ a) c)
+
+lemma lem_2 {G: Type*} [Magma G] (h: Equation1689 G) :
+    ∀ a b c : G, a ◇ (g b c) = f a b := by
+  intro a b c
+  simp [g]
```
Comment (teorth) [inline equational_theories/Subgraph.lean:344]: interestingly I couldn't find any way to golf this proof.  (I could change `simp [g]` to `unfold g` but this is barely a change.)

File: equational_theories/Subgraph.lean [hunk 6]
```diff
@@ -357,41 +307,64 @@ theorem Equation1571_implies_Equation4656 {G : Type} [Magma G] (h : Equation1571
...
+lemma eq_f {G: Type*} [Magma G] (h: Equation1689 G) :
+    ∀ a b c : G, a = (b ◇ a) ◇ (f a c) := by exact h
+
+-- Assuming there always exist b such that f a b = a, finish the proof
+lemma lem_fixf_implies_eq2 {G: Type*} [Magma G] (h: Equation1689 G)
+    (hfixf: ∀ b : G, ∃ c : G, f b c = b) : Equation2 G := by
+  have fproj (a b : G) : f a b = b := by
+    obtain ⟨c, hfbc⟩ := hfixf b
+    nth_rewrite 2 [eq_f h b a c]
+    rw [hfbc] ; rfl
```
Comment (teorth) [inline equational_theories/Subgraph.lean:328]: Can golf lines 327-328 to `exact (hfbc ▸ (eq_f h b a c)).symm` (though it is debatable whether this is much of an improvement)

File: equational_theories/Subgraph.lean (hunk 2 above)
Comment (pitmonticone) [reply equational_theories/Subgraph.lean:339]: This will suffice 

```suggestion
  exact (eq_f h ..).symm
```

Tested locally so it can be committed directly if you like.

File: equational_theories/Subgraph.lean [hunk 7]
```diff
@@ -357,41 +307,64 @@ theorem Equation1571_implies_Equation4656 {G : Type} [Magma G] (h : Equation1571
...
+  have eq30 (a b c : G) : a = (b ◇ a) ◇ c := by
+    rw [← fproj a c, ← eq_f h a b c]
+  have eq6 (a b : G) : a = b ◇ b := by
+    rw [eq30 a (a ◇ b) b, ← eq30 b a a]
+  intro a b ; rw[eq6 a b, ← eq6 b b]
+
+lemma lem_1 {G: Type*} [Magma G] (h: Equation1689 G) :
+    ∀ a b c : G, a ◇ (f (f a b) c) = f a b := by
+  intro a b c
+  nth_rewrite 1 [eq_f h a a b]
```
Comment (pitmonticone) [inline equational_theories/Subgraph.lean:338]: This will suffice 

```suggestion
  nth_rewrite 1 [eq_f h a a]
```

Tested locally so it can be committed directly if you like.

File: equational_theories/Subgraph.lean (hunk 1 above)
Comment (pitmonticone) [reply equational_theories/Subgraph.lean:320]: Yep 

```suggestion
    ∀ a b c : G, a = (b ◇ a) ◇ (f a c) := h
```

Tested locally, so it can be committed directly if you like.

File: equational_theories/Subgraph.lean (hunk 6 above)
Comment (pitmonticone) [inline equational_theories/Subgraph.lean:328]: This would suffice 

```suggestion
lemma lem_fixf_implies_eq2 {G: Type*} [Magma G] (h: Equation1689 G)
    (hfixf: ∀ b : G, ∃ c : G, f b c = b) : Equation2 G := by
  have fproj (a b : G) : f a b = b := by
    obtain ⟨c, hfbc⟩ := hfixf b
    exact (hfbc ▸ (eq_f h b a c)).symm
  have eq30 (a b c : G) : a = (b ◇ a) ◇ c := by rw [← fproj a c, ← eq_f h]
  have eq6 (a b : G) : a = b ◇ b := by rw [eq30 a, ← eq30 b a]
  exact fun a b ↦ by rw [eq6 a b, ← eq6]
```

Tested locally, so feel free to commit directly.

File: equational_theories/Subgraph.lean [hunk 8]
```diff
@@ -357,41 +307,64 @@ theorem Equation1571_implies_Equation4656 {G : Type} [Magma G] (h : Equation1571
...
+  exact Eq.symm (eq_f h (f a b) (a ◇ a) c)
+
+lemma lem_2 {G: Type*} [Magma G] (h: Equation1689 G) :
+    ∀ a b c : G, a ◇ (g b c) = f a b := by
+  intro a b c
+  simp [g]
+  nth_rewrite 1 [h b (a ◇ b) c]
+  exact (lem_1 h a b (f b c))
```
Comment (pitmonticone) [inline equational_theories/Subgraph.lean:346]: This would suffice

```suggestion
lemma lem_2 {G: Type*} [Magma G] (h: Equation1689 G) :
    ∀ a b c : G, a ◇ (g b c) = f a b := by
  intro a b c
  nth_rewrite 1 [g, h b]
  exact lem_1 h ..
```

Tested locally

**Comment by pitmonticone** [comment]
@blefloch Finished the review. All the minor golfing changes have been tested locally and can be safely committed directly if you like.

File: equational_theories/Subgraph.lean (hunk 1 above)
Comment (blefloch) [reply equational_theories/Subgraph.lean]: Thanks, I took all of these suggestions by @teorth in my first commit, but adapted given that I no longer needed the `eq_f` lemma.  I'm correspondingly marking these conversations as resolved.

File: equational_theories/Subgraph.lean (hunk 3 above)
Comment (blefloch) [reply equational_theories/Subgraph.lean]: I went back to just `rw[f,←h1]` for a bit because `simp` was overkill, then opted for something closer to Pietro's suggestion of using `congrArg`, which specifically ended up as `congrArg (· ◇ _) h1`.

File: equational_theories/Subgraph.lean (hunk 4 above)
Comment (blefloch) [reply equational_theories/Subgraph.lean]: Actually `simp_rw` is not needed, and `rw[f,←h4,←h3]` works.  (Now `rw [f,h4,h3,←h]` because I swapped lhs/rhs in some intermediate equations, and I incorporated the last `exact h..` into the same `rw` call.)

File: equational_theories/Subgraph.lean (hunk 5 above)
Comment (blefloch) [reply equational_theories/Subgraph.lean]: Indeed, `unfold g` makes Lean work much less than `simp [g]`, so it's an improvement.  Pietro merged that line to the next, as `nth_rewrite 1 [g, h b]`, again using that `g` is a valid argument for rewrites.

File: equational_theories/Subgraph.lean (hunk 6 above)
Comment (blefloch) [reply equational_theories/Subgraph.lean]: Sorry, when making my commits I missed the changes you suggested in the last line, with `exact fun a b ↦` instead of `intro a b` and so on.  Since there are other places where I couldn't avoid `intro` I will keep it here too, so `intro a b ; rw [eq6 a b, ← eq6]`.

File: equational_theories/Subgraph.lean [hunk 9]
```diff
@@ -357,41 +307,64 @@ theorem Equation1571_implies_Equation4656 {G : Type} [Magma G] (h : Equation1571
...
+    exact Eq.symm (lem_1 h a a a)
+  have h2 : f a (pow5 a) = g (pow3 a) a := by simp [f,g] ; rw[← h1] ; rfl
+  have h3 : f a (pow3 a) = g a (pow5 a) := by
+    rw [← lem_2 h a (pow3 a) a, ← h2] ; rfl
+  have h4 : pow3 a = a ◇ (g a (pow5 a)) := by
+    rw [lem_2 h] ; rfl
+  use (g a (pow5 a))
+  simp [f]
+  rw [← h4, ← h3]
+  exact Eq.symm (h a (a ◇ a) (pow3 a))
```
[the remark this answers is not in the document]
Comment (blefloch) [reply equational_theories/Subgraph.lean]: For `h2` I found the neater `congrArg (· ◇ _) h1`.  For the last two lines I just used `rw [f,h4,h3,←h]`.  More work for Lean, but much shorter.  Also got rid of all the `rfl` by the use of abbrev instead of def.

File: equational_theories/Subgraph.lean (hunk 6 above)
Comment (pitmonticone) [reply equational_theories/Subgraph.lean]: Sure, it's perfectly fine.

File: equational_theories/Subgraph.lean [hunk 10]
```diff
@@ -357,41 +307,52 @@ theorem Equation1571_implies_Equation4656 {G : Type} [Magma G] (h : Equation1571
...
+
+lemma lem_fixf {G: Type*} [Magma G] (h: Equation1689 G) :
+    ∀ a : G, ∃ b : G, f a b = a := by
+  intro a
+  have h1 : pow3 a = a ◇ pow5 a := (lem_1 h ..).symm
+  have h2 : g (pow3 a) a = f a (pow5 a) := congrArg (· ◇ _) h1
+  have h3 : g a (pow5 a) = f a (pow3 a) := by rw [← lem_2 h, h2]
+  have h4 : a ◇ (g a (pow5 a)) = pow3 a := by rw [lem_2 h]
+  use (g a (pow5 a))
+  rw [f,h4,h3,←h]
```
Comment (pitmonticone) [inline equational_theories/Subgraph.lean:349]: Just a minor formatting issue: 

```suggestion
  rw [f, h4, h3, ←h]
```

**Review by pitmonticone — APPROVED** [review]
Now looks good to me. Thanks @blefloch!
